US05064837
React 1-benzyl-3-chloromethyl-2(1H)-quinolone with the sodium salt of 1,2,4-triazole in DMF at 25° C. for 18 hours, following the procedure of example 22. Chromatograph the crude product using 5% methanol-dichloromethane to obtain the major product, 1-Benzyl-3-(1H-1,2,4-triazol-1-ylmethyl-2(1H)-Quinolone.

reactant | 1-benzyl-3-chloromethyl-2(1H)-quinolone | C(C1=CC=CC=C1)N1C(C(=CC2=CC=CC=C12)CCl)=O | C17H14ClNO
reactant | sodium | [Na] | Na
reactant | 1,2,4-triazole | N1N=CN=C1 | C2H3N3
reactant | methanol dichloromethane | CO.ClCCl
solvent | DMF | CN(C)C=O | C3H7NO
product | 1H-1,2,4-triazol-1-ylmethyl-2(1H)-Quinolone | N1(N=CN=C1)CN1C(C=CC2=CC=CC=C12)=O | C12H10N4O
